US07214673B2
8-Fluoro-2-methyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride
Heat a solution of 2-(4-fluoro-2-nitro-phenylamino)-5-methyl-benzonitrile (1.747 g, 6.44 mmol) in ethanol (35 ml) to 60° C. and add a solution of tin (II) chloride (6.06 g, 31.96 mmol) in 5.0 N hydrochloric acid (35 ml). Reflux the resulting mixture to reflux for 40 hours. Cool the reaction to room temperature and place in a freezer for 16 hours. The product precipitates from the solution and is collected by filtration to obtain 1.3 g of the title compound (4.68 mmol, 73% yield) as a yellow-green amorphous solid: Mass Spectrum (m/e): 241 (M+1).

reactant | 2-(4-fluoro-2-nitro-phenylamino)-5-methyl-benzonitrile | 6.44 mmol, 1.747 g | FC1=CC(=C(C=C1)NC1=C(C#N)C=C(C=C1)C)[N+](=O)[O-] | C14H10FN3O2
reactant | tin (II) chloride | 31.96 mmol, 6.06 g | [Sn](Cl)Cl
solvent | ethanol | 35 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 5.0 N, 35 ml | Cl | ClH
product | 8-Fluoro-2-methyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride | 4.68 mmol, 1.3 g, 73% yield | Cl.FC=1C=CC2=C(N=C(C3=C(N2)C=CC(=C3)C)N)C1 | InChI=1S/C14H12FN3.ClH/c1-8-2-4-11-10(6-8)14(16)18-13-7-9(15)3-5-12(13)17-11;/h2-7,17H,1H3,(H2,16,18);1H
